US08604211B2
Preparation of ethyl 2-cyano-2-methyl-3-methylsulfanyl-propanoate
n-Butyllithium (24.2 mL, 60 mmol, 2.5 M solution in hexanes) was added to a solution of iso-propylamine (8.1 mL, 58 mmol) in dry ether (70 mL) under nitrogen at a rate needed to maintain temperature below −60° C. Upon completion, the reaction was allowed to warm to 10° C., re-cooled to −78° C. before addition of ethyl 2-cyanopropanoate (7 g, 55 mmol). After stirring at −78° C. for 90 minutes, chloromethylsulfide (4.61 mL, 55 mmol) was added and the mixture was warmed to room temperature over 14 hours, diluted with ether (350 mL), washed with water (100 mL), brine (100 mL), dried over MgSO4, concentrated under reduced pressure and distilled at 0.04 mm Hg. Yield of yellow liquid 3.95 g. (38%): bp 145° C.; IR (KBr thin film) 1751 cm−1; 1H NMR (400 MHz, CDCl3) δ 4.30 (q, J=7.1 Hz, 2H), 3.08 (d, J=13.9 Hz, 1H), 2.91 (d, J=13.9 Hz, 1H), 2.30 (s, 3H), 1.67 (s, 3H), 1.35 (t, J=7.4 Hz, 3H); ESIMS m/z 187.

reactant | n-Butyllithium | 60 mmol, 2.5 M, 24.2 mL | C(CCC)[Li]
reactant | iso-propylamine | 58 mmol, 8.1 mL | C(C)(C)N | C3H9N
reactant | ethyl 2-cyanopropanoate | 55 mmol, 7 g | C(#N)C(C(=O)OCC)C | C6H9NO2
reactant | chloromethylsulfide | 55 mmol, 4.61 mL | ClCSCCl | C2H4Cl2S
solvent | ether | 70 mL | CCOCC | C4H10O
solvent | ether | 350 mL | CCOCC | C4H10O
product | ethyl 2-cyano-2-methyl-3-methylsulfanyl-propanoate | C(#N)C(C(=O)OCC)(CSC)C | C8H13NO2S
